US04061647
4-(3,4-Dimethyl-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
3.1 g of 2-bromo-3',4'-dimethyl-5'-sulfamoyl-acetophenon were reacted according to the method described in Example 6 with 1.1 g of 1,3-dimethyl-thiourea and the 4-(3,4-dimethyl-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide was filtered off. M.p. 252°-255° C (decomposition).

reactant | 2-bromo-3',4'-dimethyl-5'-sulfamoyl-acetophenon | 3.1 g | BrCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)C | C10H12BrNO3S
reactant | 1,3-dimethyl-thiourea | 1.1 g | CNC(=S)NC | C3H8N2S
product | 4-(3,4-Dimethyl-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.CC=1C=C(C=C(C1C)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O | InChI=1S/C13H19N3O3S2.BrH/c1-8-5-10(6-11(9(8)2)21(14,18)19)13(17)7-20-12(15-3)16(13)4;/h5-6,17H,7H2,1-4H3,(H2,14,18,19);1H
